US20010007867A1
(1 -Ethyl-propyl)-[5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine
A mixture of 7-chloro-5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a] pyrimidine (190 mg, 0.63 mmol) and 1-ethylpropylamine (4 ml) in 1 ml of N-methylpyrrolidinone was heated at 125° C. oil bath for 15 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated and purified through silica gel column chromatography using chloroform to 2% methanol in chloroform as eluent to give 195 mg (87%) of the title compound as a green solid. 1H NMIR (CDCl3) δ 7.87(s,1H), 6.97(s,2H), 6.12(d,1H), 5.85(s,1H), 3.52(m, 1H), 2.48(s,3H), 2.09(s,3H), 2.16(s,6H), 1.6-1.9(m,4H), 1.05(t,6H)ppm.

reactant | 7-chloro-5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a] pyrimidine | 0.63 mmol, 190 mg | ClC1=CC(=NC=2N1N=CC2C2=C(C=C(C=C2C)C)C)C | C16H16ClN3
reactant | 1-ethylpropylamine | 4 ml | C(C)C(CC)N | C5H13N
solvent | N-methylpyrrolidinone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | (1 -Ethyl-propyl)-[5-methyl-3-(2,4,6-trimethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine | 195 mg, 87% | C(C)C(CC)NC1=CC(=NC=2N1N=CC2C2=C(C=C(C=C2C)C)C)C | C21H28N4
